US06153589
Preparation of (2S-trans)-3-Nonyloxirane Methanol
A suspension of 1.00 g of 4a powdered molecular sieves in 50 ml of dry CH2Cl2 was cooled to 0° C. under argon. To the cooled suspension was added 308 mg (1.09 mmole) of Ti(OiPr)4 and 356 mg (1.52 mmole) of L(+)diisopropyl tartrate via syringe. The mixture was stirred for 15 min and cooled to -20° C. A solution of tert-butyhydroperoxide in isooctane (3.8 M, 4.30 ml, 16.4 mmole) was added slowly to the mixture and the catalyst was allowed to "age" for 30 min at -20° C. A solution of 2.00 g (10.9 mmole) of E-2-dodecen-1-ol in 10 ml of CH2Cl2 was dried over 3A molecular sieves for 15 ml before being added to the mixture slowly, with stirring, at -20°. The solution was then placed in the freezer (-30° C.) and allowed to stand for 24 H. The mixture was warmed to 0° C. and poured into a solution of 1.00 g of citric acid and 3.50 g of FeSO4 in 15 ml H2O. The organic layer was separated and the acqueous layer washed twice with 20 ml of CH2Cl2. The CH2Cl2 layers were combined, dried over MgSO4, filtered and evaporated to yield a sticky white solid. Recrystallization from Et2O:petroleum ether afforded 1.98 g of white solid, mp 62-4° C. 1H NMR δ 3.92 (ddd, 1, J=2.5, 6, 12 Hz), 3.63 (ddd, 1, J=4, 7, 12 Hz), 2.95 (m, 2), 1.69 (dd, 1, J=7, 6 Hz), 1.6-1.2 (m, 16), 0.88 (t, 3, J=6 Hz). Mass Spectra: M-31(--CH2OH)(0.4)169, M(100)55.1.

reactant | tert-butyhydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | isooctane | 16.4 mmole, 3.8 M, 4.30 ml | C(C)(C)CC(C)(C)C | C8H18
reactant | E-2-dodecen-1-ol | 10.9 mmole, 2.00 g | C(\C=C\CCCCCCCCC)O | C12H24O
reactant | citric acid | 1.00 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 15 ml | O | H2O
catalyst | Ti(OiPr)4 | 1.09 mmole, 308 mg | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | (2S-trans)-3-Nonyloxirane Methanol | 1.98 g | C(CCCCCCCC)[C@H]1[C@@H](O1)CO | C12H24O2
